US05962457
2-Methyl-3-(2-methyl-phenyl)-3H-pteridin-4-one
To a mixture of 3-acetamidopyrazine-2-carboxylic acid o-toluamide (1.0 g, 3.70 mmol), triphenylphosphine (2.91 g, 11.1 mmol), and 4-dimethylaminopyridine (0.045 g, about 10 mol %) in dioxane (45 mL) was added diethyl azodicarboxylate (1.75 mL, 11.1 mmol) dropwise via syringe. The reaction was refluxed overnight, cooled to ambient temperature and concentrated. The residue was partitioned between methylene chloride and water. The phases were separated and the organic layer was washed with brine, dried and concentrated. The residue was flash chromatographed on silica gel (2.25×4 inches, packed in hexane) with elution proceeding as follows: 20%-80% ethyl acetate/hexane, forerun; 85% ethyl acetate/hexane (1000 mL), 0.71 g (76%) of 2-methyl-3-(2-methyl-phenyl)-3H-pteridin-4-one which was suitable for use without further purification. A sample was recrystallized from ethyl acetate.

reactant | 3-acetamidopyrazine-2-carboxylic acid o-toluamide | 3.70 mmol, 1.0 g | C=1(C(=CC=CC1)C(=O)N)C.C(C)(=O)NC=1C(=NC=CN1)C(=O)O
reactant | triphenylphosphine | 11.1 mmol, 2.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 11.1 mmol, 1.75 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
catalyst | 4-dimethylaminopyridine | 0.045 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane | 45 mL | O1CCOCC1 | C4H8O2
product | 2-Methyl-3-(2-methyl-phenyl)-3H-pteridin-4-one | CC1=NC2=NC=CN=C2C(N1C1=C(C=CC=C1)C)=O | C14H12N4O
